US08222362B2
Polymer Latex with n-dodecyl Mercaptan as Modifier
A solution of 1.16 g polyethylene oxide (prepared according to the teaching of DE 1 213 984) and 0.06 g ethylenediamine tetraacetic acid in 2.54 g deionized water is added, followed by 46.0 g deionized water. After 3 hours a solution of 4.12 g potassium oleate, 0.03 g potassium chloride and 0.36 g naphthalene sulfonic acid formaldehyde condensate, sodium salt in 21.7 g deionized water, followed by 46.0 g of deionized water. Finally the latex has a solids content of ca. 31%.

reactant | ethylenediamine tetraacetic acid | 0.06 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | potassium oleate | 4.12 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-].[K+]
reactant | potassium chloride | 0.03 g | [Cl-].[K+]
reactant | naphthalene sulfonic acid formaldehyde | 0.36 g | C=O.C1(=CC=CC2=CC=CC=C12)S(=O)(=O)O
reactant | sodium | [Na] | Na
solvent | water | 46.0 g | O | H2O
product | n-dodecyl Mercaptan | C(CCCCCCCCCCC)S | C12H26S
